US09169187B2
To crude crystals (31.9 g) of ethyl di(4-docosoxyphenyl)methylcarbamate were added toluene (300 mL), ethanol (200 mL) and sodium hydroxide (4.2 g, 105 mmol), and the mixture was refluxed under stirring at 100° C. Sodium hydroxide (total 9.8 g, 245 mmol) was added, and the mixture was stirred for 16 hr. The reaction mixture was cooled to room temperature, and water (300 mL), hexane (200 mL) and ethyl acetate (200 mL) were added for partitioning. The aqueous layer was discarded, and the organic layer and precipitated crystals were washed with water (300 mL×2). The organic layer and crystals were recovered. The solvent was evaporated under reduced pressure. To the residue were added water (150 mL) and acetonitrile (150 mL) to allow crystallization. The crystals were collected by filtration and thoroughly washed with water and acetonitrile to give di(4-docosoxyphenyl)methylamine (28.1 g, 33.7 mmol, 98% vs —OH).

reactant | ethyl di(4-docosoxyphenyl)methylcarbamate | C(CCCCCCCCCCCCCCCCCCCCC)OC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCCCCCCCCCCCCCCCCCCCCCC)NC(OCC)=O | C60H105NO4
reactant | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
reactant | ethanol | 200 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 105 mmol, 4.2 g | [OH-].[Na+]
reactant | Sodium hydroxide | 245 mmol, 9.8 g | [OH-].[Na+]
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | hexane | 200 mL | CCCCCC | C6H14
solvent | water | 300 mL | O | H2O
product | di(4-docosoxyphenyl)methylamine | 33.7 mmol, 28.1 g, 98% | C(CCCCCCCCCCCCCCCCCCCCC)OC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCCCCCCCCCCCCCCCCCCCCCC)N | C57H101NO2
